US07273867B2
380 g (1.17 mol) of caesium carbonate are added to a solution of 200 g (1.135 mol) of 3-(5-methyl-1,2,4-oxadiazol-3-yl)phenol in 2.5 l of acetonitrile. A solution of 190 ml (1.15 mol) of ethyl 2-bromovalerate in 0.5 l of acetonitrile is subsequently added. The reaction mixture is stirred at room temperature for 24 hours and then filtered, and the filtrate is evaporated, giving ethyl 2-[3-(5-methyl-1,2,4-oxadiazol-3-yl)phenoxy]pentanoate as a yellowish oil; ESI 305.

reactant | caesium carbonate | 1.17 mol, 380 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 3-(5-methyl-1,2,4-oxadiazol-3-yl)phenol | 1.135 mol, 200 g | CC1=NC(=NO1)C=1C=C(C=CC1)O | C9H8N2O2
reactant | ethyl 2-bromovalerate | 1.15 mol, 190 ml | BrC(C(=O)OCC)CCC | C7H13BrO2
solvent | acetonitrile | 2.5 l | C(C)#N | C2H3N
solvent | acetonitrile | 0.5 l | C(C)#N | C2H3N
product | ethyl 2-[3-(5-methyl-1,2,4-oxadiazol-3-yl)phenoxy]pentanoate | CC1=NC(=NO1)C=1C=C(OC(C(=O)OCC)CCC)C=CC1 | C16H20N2O4
